US04224344
A mixture of 9-tosyloxymethyl-9,10-dihydro-9,10-methanoanthracene (188 mg) and potassium cyanate (40 mg) in dimethylformamide (2 ml) was heated at 150° C. for 7 hours. The reaction mixture was diluted with water and extracted with benzene. The benzene extract was washed with water, dried over anhydrous sodium sulfate and evaporated to dryness to give crude crystals of (9,10-dihydro-9,10-methano-9-anthryl)acetonitrile, which was recrystallized from isopropanol to give pure crystals. M.P. 130°-131° C.

reactant | 9-tosyloxymethyl-9,10-dihydro-9,10-methanoanthracene | 188 mg | S(=O)(=O)(C1=CC=C(C)C=C1)OCC12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C23H20O3S
reactant | potassium cyanate | 40 mg | [O-]C#N.[K+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (9,10-dihydro-9,10-methano-9-anthryl)acetonitrile | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CC#N | C17H13N
